* On-off switch


.subckt on_off_switch 1 2
.param state=0

.model switch_model sw vt=1 vh=0.2 ron=1 roff=1000MEG


S1 1 2 n001 0 switch_model

.if (state == 0)
V1 n001 0 0
.else
V1 n001 0 5
.endif

.ends on_off_switch
