#!/usr/bin/env -vS ngspice -b

* Pin

.subckt pin 1
.param state=0

.if (state == 0)
Rxxx 1 0 1e12
.elseif (state == 1)
Vxxx 1 0 0
.elseif (state == 2)
Vxxx 1 0 5
.endif

.ends

Xread 2 pin state=2
Xwrite 2 pin state=0

Vdummy 0 999 5

.control

dc vdummy 5 5 5

display

print v(2)

.endc
