* Pushbutton simulaiton

.subckt pushbutton 1 2 params: state=0
S1 1 2 n001 0 pushbutton_model

.if (state <> 0)
V1 n001 0 5
.else
V1 n001 0 0
.endif

.model pushbutton_model sw vt=1 vh=0.2 ron=1 roff=1000MEG
.ends pushbutton

R1 2 1 1K
V1 2 0 5
Xbutton 1 0 pushbutton params: state=1

