*******************************
* Begin .SUBCKT model         *
* spice-sdb ver 4.28.2007     *
*******************************
.SUBCKT pushbutton 
*vvvvvvvv  Included SPICE model from pusbutton.cir vvvvvvvv
.SUBCKT pushbutton 1 2
S1 1 2 n001 0 pushbutton_model
V1 n001 0 5
*{state <> 0 ? 5 : 0}
.model pushbutton_model sw vt=1 vh=0.2 ron=1 roff=1000MEG
.ENDS pushbutton
*^^^^^^^^  End of included SPICE model from pusbutton.cir ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
R1 2 1 1K
V1 2 0 5
Xbutton 1 0 pushbutton
.ends pushbutton
*******************************
