#!/usr/bin/env -vS ngspice -b

.model switch sw
+ vt=1
+ vh=0.2
+ ron=1
+ roff=1e12

* Load resistor. `2` is a pin for `digitalRead`
R1 2 0 1e12
* `digitalWrite` pin
V1 1 0 5

* Button switch
S1 1 2 4 0 switch
Vs 4 0 5

.control
* digital write LOW/HIGH to 1
* turn switch on and off
dc
+ v1 0 5 5
+ vs 0 5 5

display
print v(1), v(4), v(2)
.endc
